US05047228
14 g of sodium nitrite is introduced under stirring into 170 ml of a concentrated sulfuric acid held at +5° C. The mixture is then maintained at +70° C. until solution has occurred, and then cooled to +5° C. After adding dropwise 84 ml of glacial acetic acid under cooling, 93.6 g of 5-amino-3-acetylaminomethyl-2,4,6-triiodobenzoic acid is added in incremental portions, maintaining the reaction temperature between 0° C. and +5° C. The reaction mixture is stirred for another 2 hours, poured on 800 g of ice, and, under cooling, introduced into a solution of 71 g of copper(I) cyanide and 133 g of potassium cyanide in a mixture of 1 1 of concentrated ammonia and 640 ml of water. After several hours of stirring in an ice bath, the precipitated ammonium salt is vacuum-filtered and dissolved in 4 l of water. After filtration over active carbon, the filtrate is adjusted to pH 6 with acetic acid, again extracted with active carbon, filtered, and the filtrate combined with excess concentrated hydrochloric acid. The thus-separated precipitate is dried at 50° C., thus obtaining 80.5 g (=85% theory) of 5-cyano-3-acetylaminomethyl-2,4,6-triiodobenzoic acid as a white powder, mp 271° C. (decomposition).

reactant | sodium nitrite | 14 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 170 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-3-acetylaminomethyl-2,4,6-triiodobenzoic acid | 93.6 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)CNC(C)=O)I | C10H9I3N2O3
reactant | copper(I) cyanide | 71 g | [Cu]C#N
reactant | potassium cyanide | 133 g | [C-]#N.[K+]
reactant | ammonia | N | H3N
solvent | water | 640 ml | O | H2O
solvent | acetic acid | 84 ml | C(C)(=O)O | C2H4O2
product | 5-cyano-3-acetylaminomethyl-2,4,6-triiodobenzoic acid | 80.5 g, 85% | C(#N)C=1C(=C(C(=C(C(=O)O)C1I)I)CNC(C)=O)I | C11H7I3N2O3
